US06787534B2
2-(3-Ethoxycarbonylaminophenyl)-1-methylethylamine hydrochloride
In ethanol (5 ml) was dissolved 1.173 g of N-Boc-1-methyl-2-(3-ethoxycarbonylaminophenyl)ethylamine (crude), and hydrochloric acid (5 ml) was added thereto, followed by stirring at room temperature for 1.5 hours. Then, hydrochloric acid (2.5 ml) was further added thereto, followed by stirring at room temperature for 2 hours. The solvent was evaporated, to give the title compound (1.148 g, crude) as a yellow oil. The obtained compound was subjected to the subsequent reaction as intact without further purification.

reactant | N-Boc-1-methyl-2-(3-ethoxycarbonylaminophenyl)ethylamine | 1.173 g | C(=O)(OC(C)(C)C)NC(CC1=CC(=CC=C1)NC(=O)OCC)C | C17H26N2O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(3-Ethoxycarbonylaminophenyl)-1-methylethylamine hydrochloride | 1.148 g | Cl.C(C)OC(=O)NC=1C=C(C=CC1)CC(C)N | InChI=1S/C12H18N2O2.ClH/c1-3-16-12(15)14-11-6-4-5-10(8-11)7-9(2)13;/h4-6,8-9H,3,7,13H2,1-2H3,(H,14,15);1H
